US05068064
A) 3-(Benzylmethylamino)propionitrile
5.3 g of acrylonitrile are added dropwise to a solution of 12.1 g of N-benzylmethylamine in 20 ml of ethanol. The reaction mixture is stirred for three hours at room temperature and then concentrated under vacuum to give 17 g (Y=97%) of the expected product.

reactant | acrylonitrile | 5.3 g | C(C=C)#N | C3H3N
reactant | N-benzylmethylamine | 12.1 g | C(C1=CC=CC=C1)CN | C8H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-(Benzylmethylamino)propionitrile | C(C1=CC=CC=C1)CNCCC#N | C11H14N2
